Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Elective ICD generator exchange
 
Major Surgical or Invasive Procedure:
___ Exchange of ICD generator 

 
History of Present Illness:
Ms. ___ is a ___ year old woman with a history of CAD s/p CABG  
___: SVT to D1-jump to LAD, SVG to OM, SVG to AM; ___: PCI 
SVG-OM), ischemic cardiomyopathy (LVEF 10%), Bi-V ICD (CRT-D) in 
___, atrial fibrillation, VT s/p ablations in ___ and ___, 
currently undergoing VAD/OHT evaluation who presents for 
elective generator change complicated by ventricullar 
fibrillation. 

___ had been in her previous state of health prior to 
presenting today for planned elective generator change of her 
CRT-D device. Her course was complicated by a run of ventricular 
fibrillation, which was successfully aborted by defibrillation. 
Of note, she does have a hx of ventricular tachycardia now s/p 
ablation in ___ (complicated by ventricular fibrillation and 
PEA arrest) and another ablation in ___. Just recently on 
___ did have a run of fast VT that was aborted by ATP, and at 
this time was supposed to be started on Amiodarone , however she 
did not take the first dose until ___. She was recently 
discharged from BI ___, d/c weight 68.83kg) for an 
expedited LVAD/transplant workup and RHC, with plans for VAD 
possibly as early as this ___

Subjectively the pt denies any palpitations, chest pain or 
edema. Her torsemide was just recently increased to 40mg BID on 
___ for weight gain, though she denied any DOE, edema, or 
orthopnea at this time.  She denies any recent firing of her ICD 
aside from the episode on ___ which went unnoticed by the 
patient. 

Pt was transferred to the floor from the EP recovery suite. 
 
Past Medical History:
CARDIOVASCULAR HISTORY: 
-Coronary artery disease 
 *CABG ___ (SVG to D1-jump to LAD, SVG to OM, SVG to AM),   
 *NSTEMI ___ s/p PCI of SVG vein to OM with 3.5 x 33mm ___ 
___ 
-___ cardiomyopathy with LVEF ___
-CRT-D ___ at ___ with ICD generator change at ___ in ___ (St. 
___ Assura) 
-Ventricular Tachycardia: 
 *VT ablation ___ c/b VF and PEA arrest 
 *VT ablation ___ c/b access site bleeding and bilateral  
femoral pseudoaneurysms
-Atrial fibrillation: anticoagulated on Coumadin 
-Hypertension
-Hyperlipidemia
-Type 2 Diabetes 

OTHER MEDICAL HISTORY:
-Depression
-Hyperparathyroidism s/p parathyroidectomy right gland 
-Cervical cancer s/p laser therapy 
-s/p CCY 
-Bilateral nerve entrapment ___ years ago) 
 
Social History:
___
Family History:
Mother and father both deceased from heart disease, unknown what 
type. Sister also deceased from heart disease in her ___. 
Brother with heart disease deceased in his ___.  
 
Physical Exam:
===========================
ADMISSION PHYSICAL EXAMINATION
============================
 BP 100/61  HR 80 RR 18 O2 SAT  97% RA 
GENERAL: Well developed, well nourished woman in NAD. Oriented 
x3. Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa. 
No xanthelasma.  
NECK: Supple.  
CARDIAC: RRR, S1, S2. No murmurs, rubs, or gallops. 
LUNGS: No chest wall deformities or tenderness. Respiration is 
unlabored with no accessory muscle use. No crackles, wheezes or 
rhonchi
ABDOMEN: Soft, non-tender, non-distended.   
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric. 

===========================
DISCHARGE PHYSICAL EXAMINATION
============================
24 HR Data (last updated ___ @ 1151)
    Temp: 99.0 (Tm 99.0), BP: 93/61 (93-102/49-61), HR: 80, RR: 
20, O2 sat: 95% (95-99), O2 delivery: Ra, Wt: 152.7 lb/69.26 kg 
 
GENERAL: Well developed ___ speaking woman smiling, oriented 
x3
HEENT: Sclera anicteric. PERRL. EOMI. Conjunctiva were pink. 
NECK: Supple. JVP 8cm 
CARDIAC: RRR, S1, S2. No murmurs, rubs, or gallops. 
LUNGS: No chest wall deformities or tenderness. Respiration is 
unlabored with no accessory muscle use. No crackles, wheezes or 
rhonchi
ABDOMEN: Soft, non-tender, non-distended.   
EXTREMITIES: Warm, well perfused. trace ___ edema 
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric. 
 
Pertinent Results:
============================
ADMISSION LABORATORY STUDIES
============================
___ 04:06PM BLOOD WBC-5.2 RBC-3.75* Hgb-11.6 Hct-35.2 
MCV-94 MCH-30.9 MCHC-33.0 RDW-16.4* RDWSD-55.7* Plt ___
___ 04:06PM BLOOD ___ PTT-33.2 ___
___ 04:06PM BLOOD Glucose-131* UreaN-17 Creat-1.0 Na-145 
K-3.2* Cl-101 HCO3-30 AnGap-14
___ 04:06PM BLOOD ALT-66* AST-87* LD(LDH)-274* AlkPhos-77 
TotBili-0.3
___ 04:06PM BLOOD Calcium-8.4 Phos-2.1* Mg-1.6
___ 03:48PM BLOOD VitB12-572 Folate-12
___ 04:22AM BLOOD Digoxin-2.0*

==========================================
DISCHARGE AND PERTINENT LABORATORY STUDIES
==========================================
___ 07:18AM BLOOD WBC-6.5 RBC-3.87* Hgb-11.9 Hct-36.7 
MCV-95 MCH-30.7 MCHC-32.4 RDW-17.0* RDWSD-57.7* Plt ___
___ 07:18AM BLOOD ___ PTT-38.1* ___
___ 01:35PM BLOOD ___ PTT-40.8* ___
___ 01:35PM BLOOD ___ PTT-40.8* ___
___ 07:18AM BLOOD Glucose-119* UreaN-22* Creat-1.0 Na-145 
K-3.9 Cl-99 HCO3-32 AnGap-14
___ 04:06PM BLOOD proBNP-289___*
___ 07:18AM BLOOD Calcium-9.0 Phos-3.4 Mg-2.0

===========================
REPORTS AND IMAGING STUDIES
===========================
___  Lower Extremity Arterial Mapping
FINDINGS: 
 
RIGHT:
The common femoral artery measures 0.74 cm and the proximal 
superficial
femoral artery measures 0.49 cm in the proximal thigh, 0.49 cm 
in the mid
thigh, and 0.41 cm in the distal thigh.  Normal triphasic 
waveforms are seen
in the common femoral and throughout the superficial femoral 
artery.  No
arterial calcifications are present.
 
LEFT:
The common femoral artery measures 1.02 cm and the proximal 
superficial
femoral artery measures 0.50 cm in the proximal thigh, 0.59 cm 
in the mid
thigh, and 0.51 cm in the distal thigh. Normal triphasic 
waveforms are seen in
the common femoral and throughout the superficial femoral 
artery. No arterial
calcifications are present.
 
The previously described bilateral pseudoaneurysms are not 
appreciated on this
exam, unclear if they have resolved or were not imaged.
 
IMPRESSION: 
 
Lower extremity arterial mapping as described.

============
MICROBIOLOGY
============
CMV IgG ANTIBODY-PENDING
RUBELLA IgG SEROLOGY-PENDING
___ 03:48PM BLOOD STRONGYLOIDES ANTIBODY,IGG-PND
___ 03:48PM BLOOD SCHISTOSOMA ANTIBODIES-PND
___ 03:48PM BLOOD HISTOPLASMA ANTIBODY (BY CF AND ID)-PND
___ 08:38PM URINE HISTOPLASMA ANTIGEN-PND
 
Brief Hospital Course:
=================
SUMMARY STATEMENT
=================
Ms. ___ is a ___ year old woman with a history of CAD s/p CABG 
___: SVT to D1-jump to LAD, SVG to OM, SVG to AM; ___: PCI 
SVG-OM), ischemic cardiomyopathy (LVEF 10%), Bi-V ICD (CRT-D) in 
___, atrial fibrillation, VT s/p ablations in ___ and ___, 
currently undergoing VAD/OHT evaluation who presented for 
elective generator change complicated by ventricular 
fibrillation, now stable back in native atrial fibrillation w/ 
functioning ICD. She was found to have acute heart failure with 
moderate volume overload. Pt was diuresed gently this admission 
as her VAD/OHT work-up was completed. 

=================
TRANSITIONAL ISSUES 
=================
[ ] F/u INR ___ to redose warfarin. Labile INRs given 
amiodarone started this admission 
[ ] F/u outpatient ID serologies as above (all send out labs)
[ ] If hypotensive or orthostatic can d/c valsartan
[ ] Amiodarone dose to be reduced to 400mg daily on ___ 

Discharge weight - 153 lbs (if 156 lbs or greater call the ___ 
clinic) 
Discharge diuretic - Torsemide 40mg twice a day 

MEDICATIONS WE STOPPED
-Entresto

MEDICATIONS WE CHANGED 
- Take 1mg warfarin ___ 2mg 
___ until PCP tells you to change dose 
- Decreased digoxin to .125mg 

NEW MEDICATIONS 
- Started valsartan 40mg daily 
- Started Amiodarone 400mg BID 

=========================
HOSPITAL COURSE BY PROBLEM 
=========================
#Ventricular fibrillation s/p defibrillation w/ reversion to 
afib
Pt has significant history of ventricular arrhythmias, most 
recently with VT on ___ that was terminated with ATP. During 
her generator change on ___ she developed a brief run of 
ventricular fibrillation that was terminated with a shock. 
Patient was meant to be started on amiodarone, however she was 
unable to take it until a day prior to generator exchange. At 
this time she does have the new generator in place, and has had 
no further episodes of VT or Vfib on telemetry. 
- Amiodarone 400mg BID for 10 days (through ___, reduce to 
400mg daily at this time (starting ___ 
- Continued holding metoprolol given low CI on previous RHC 
- Pt will follow-up in device clinic on ___ 

#Chronic Heart Failure w/ Reduced Ejection Fraction (10%) 
#Orthostatic transplant/VAD workup 
On presentation pt appeared to be slightly volume up on exam, 
though was asymptomatic. Home PO Torsemide recently increased to 
40mg BID as outpatient. She was diuresed this admission w/ IV 
Lasix 80mg daily-BID before transition to PO torsemide. Several 
consults (ID, hematology, and Gyn) were pleased for pre OTH/VAD 
clearance. 
- Preload: Continue 40mg PO Torsemide BID 
- Afterload: Entresto held this admission and transitioned to 
valsartan 40mg daily without hypotension. Continue the valsartan 
40mg and spironolactone 12.5mg daily. 
- Inotropic: Digoxin dose was decreased to 0.125 given 
supratherapeutic level 
- NHBK: Not on BB given low CI on recent RHC 
- ID consult - infectious serologies pending: CMV IgG serology, 
rubella IgG, histoplasma antibodies and histoplasma urinary 
antigen, schistosomiasis antibody, strongyloidiasis antibody. 
PPD placed ___, negative ___. Received TDAP, Prevnar ___ and Hepatitis B ___. 
- Heme consult for thrombocytopenia, likely benign, however heme 
will f/u peripheral smear 
- Gyn-onc consult (hx endometrial cancer s/p radiation ___: no 
concern for recurrent endometrial cancer

#CAD 
s/p CABG in ___ to D1-jump to LAD, SVG to OM, SVG to AM) 
and PCI SVG-OM ___. Now with ischemic CM as detailed above. No 
chest pain this admission.
- Manage HFrEF as detailed above
- Continued ASA 81, atorvastatin 40 

CHRONIC ISSUES: 
============== 
#Atrial Fibrillation 
- ChadsVASC 7, on warfarin. She has had labile INRs this 
admission since starting the amiodarone. Discharged on 
alternating schedule of 1mg/2mg warfarin with plans for close 
follow-up of INR. 
- On amiodarone as above 
- Continued digoxin .125 

#Depression 
- Continued home sertraline 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sacubitril-Valsartan (24mg-26mg) 1 TAB PO BID 
2. LORazepam 0.5 mg PO BID:PRN anxiety 
3. Digoxin 0.25 mg PO DAILY 
4. Docusate Sodium 100 mg PO BID 
5. Amiodarone 400 mg PO BID 
6. Warfarin 2.5 mg PO DAILY16 
7. Atorvastatin 40 mg PO QPM 
8. Torsemide 40 mg PO BID 
9. Spironolactone 12.5 mg PO DAILY 
10. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
11. Potassium Chloride 10 mEq PO 1 TO 4 TABS PRN as prescribed 
12. Potassium Chloride 40 mEq PO PRN  low potassium 
13. Aspirin 81 mg PO DAILY 
14. Sertraline 100 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN fever, pain 
RX *acetaminophen 325 mg 2 tablet(s) by mouth Every 6 hours as 
needed Disp #*60 Tablet Refills:*0 
2.  Valsartan 40 mg PO DAILY 
RX *valsartan 40 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
3.  Digoxin 0.125 mg PO DAILY 
RX *digoxin 125 mcg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
4.  Warfarin 1 mg PO EVERY OTHER DAY 
RX *warfarin 1 mg 1 tablet(s) by mouth Every Other Day Disp #*20 
Tablet Refills:*0 
5.  Warfarin 2 mg PO EVERY OTHER DAY Duration: 1 Dose 
RX *warfarin 1 mg 2 tablet(s) by mouth Every other day Disp #*10 
Tablet Refills:*0 
6.  Amiodarone 400 mg PO BID  
7.  Aspirin 81 mg PO DAILY  
8.  Atorvastatin 40 mg PO QPM  
9.  Docusate Sodium 100 mg PO BID  
10.  LORazepam 0.5 mg PO BID:PRN anxiety  
11.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain  
12.  Potassium Chloride 10 mEq PO 1 TO 4 TABS PRN as prescribed 
Hold for K >  
13.  Potassium Chloride 40 mEq PO PRN  low potassium 
Hold for K >  
14.  Sertraline 100 mg PO DAILY  
15.  Spironolactone 12.5 mg PO DAILY  
16.  Torsemide 40 mg PO BID  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis 
=================
Acute Heart Failure with Reduced Ejection Fraction 

Secondary Diagnosis 
===================
Ventricular Tachycardia 
Atrial fibrillation 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Estimada Sra. ___, 

¿Por qué fue ___ hospital?
 Mientras se cambiaba ___ batería ___, tuvo un ritmo 
anormal del corazón. También debíamos ___ evaluación 
previa ___ evaluación para ___ del corazón en ___ 
médico de ___.
 
¿Qué hicimos mientras estuvo aquí?
 ___ batería de ___ fue cambiada. ___ un diurético 
(píldora de agua) a través ___. ___ enfermedades 
infecciosas, hematología y ginecología ___ antes de 
___ en ___ para evaluación para ___ del corazón.
 
¿Qué debería hacer cuando me vaya a casa?
- Pésese todos los días, ___ más de 3 libras, llame a ___ 
clínica ___ cardíaca (Dr. ___.
- Continue con todos ___ ___ abajo para más 
detalles)
- ___ visitante debe ___ INR mañana (Martes, 10 
de ___, para ___ médico de ___ pueda ___ 
___ de Coumadin (anticoagulante)
 - Vaya a todas sus citas
  
Gracias por permitirnos ___,
  -___ equipo de atención médica de ___

 ___ ___ hospital: 153 libras ___ pesa 156 libras o 
más, llame a ___ clínica ___ – Dr. ___
 
Diurético o píldora del agua ___ ___ hospital:  
Torsemide 40 mg dos veces al día
 
MEDICAMENTOS ___ SUSPENDIMOS 
 -Entresto  

 MEDICAMENTOS ___ CAMBIAMOS
- Disminuimos digoxina a 0.125 mcg al día
- Tome Warfarin (Coumadin) 1 mg lunes, miércoles ___ ; y  
Warfarin 2 mg  Martes, Jueves. Por favor continue este esquema 
hasta ___ medico de ___ algún cambio. 
 
MEDICAMENTOS NUEVOS
- Comenzó Valsartan 40 mg al día
- Comenzó Amiodarone 400 mg dos veces al día 
  
 
Followup Instructions:
___